US09255090B2
Synthesis of 5-(5-Ethoxycarbonylmethyl-2-methoxy-phenyl)-8-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C28H28NO5F, MW=477.20)
To a mixture under N2 of 5-bromo-8-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (529 mg, 1.45 mmol, 1.00 eq.), [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (659 mg, 1.45 mmol, 1.00 eq.) and sodium carbonate (616 mg, 5.81 mmol, 4.00 eq.) in toluene/MeOH/water 20:4:1 (29 mL), tetrakis(triphenylphosphine) palladium (0) (84 mg, 0.07 mmol, 0.05 eq.) was added and the mixture was stirred at 100° C. for 18 hours. The mixture was allowed to cool to r.t. and concentrated in vacuo. The residue was partitioned between AcOEt (60 mL) and water (60 mL). The layers were separated. The org. phase was washed with sat. aq. NaCl soln. (1×60 mL), dried over MgSO4 and filtered through Celite. The filtrate was concentrated in vacuo. The residue was purified by flashmaster (column: 50 g, flow: 40 mL/min, 40 fractions of 40 mL, Heptane 100% to Heptane+30% AcOEt) to yield the title compound as a yellow oil.

reactant | 5-bromo-8-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 1.45 mmol, 529 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)Br)F | C17H15BrFNO2
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 1.45 mmol, 659 mg, 1.00 eq. | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
reactant | sodium carbonate | 5.81 mmol, 616 mg, 4.00 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene MeOH water | 29 mL | C1(=CC=CC=C1)C.CO.O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.07 mmol, 84 mg, 0.05 eq. | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(5-Ethoxycarbonylmethyl-2-methoxy-phenyl)-8-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)C1=C(C=CC(=C1)CC(=O)OCC)OC)F | C28H28FNO5
